US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-pyrazin-2-yl-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.095 mL, 0.75 mmol) was added to a solution of 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid (250 mg, 0.65 mmol) in DCM (6 mL) and stirred at RT for 30-40 minutes. 2-Aminopyrazine (125 mg, 1.31 mmol) and pyridine (0.106 mL, 1.31 mmol) were added and the reaction stirred at RT for 2 hours. The solvent was removed in vacuo, water (20 mL) was added and the mixture was extracted with ethyl acetate (3×20 mL). The organic extracts were combined and washed with 2N hydrochloric acid (20 mL), a saturated solution of sodium bicarbonate (20 mL), water (20 mL), brine (20 mL), dried (MgSO4) and evaporated in vacuo. The crude product was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, to give the desired compound (71 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.75 mmol, 0.095 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 0.65 mmol, 250 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H]1COCC1 | C20H20N2O6
reactant | 2-Aminopyrazine | 1.31 mmol, 125 mg | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 1.31 mmol, 0.106 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-pyrazin-2-yl-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 71 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NC=CN=C2)C=C(C1)O[C@@H]1COCC1 | C24H23N5O5
